US07915411B2
3-(3-Methoxy-benzyloxy)-phenylamine
3-Nitro-phenol was reacted with 1-Bromomethyl-3-methoxy-benzene according to the procedure from Example 199A substituting 1-Bromomethyl-3-methoxy-benzene for 1-bromomethyl-3-fluoro-benzene then reduced according to the procedure from Example 199B to provide the title compound.

reactant | 3-Nitro-phenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 1-Bromomethyl-3-methoxy-benzene | BrCC1=CC(=CC=C1)OC | C8H9BrO
reactant | 1-bromomethyl-3-fluoro-benzene | BrCC1=CC(=CC=C1)F | C7H6BrF
product | 3-(3-Methoxy-benzyloxy)-phenylamine | COC=1C=C(COC=2C=C(C=CC2)N)C=CC1 | C14H15NO2
